data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1[C:22](=[OH+:23])C(CC2C13CCN(C2CC4=C3C(=C(C=C4)OC)O)CCC5=CC=CC=C5)OC.COC1CC2C3CC4=C(C2(CC[N:10]3CCC5=CC=CC=C5)CC1=O)C(=C(C=C4)OC)O.CS(=O)(=O)[O-]>>[H:20][N+:10]1(CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)CCC5=CC=CC=C5.COC1CC2C3CC4=C(C2(CCN3CCC5=CC=CC=C5)[CH:21]=[C:22]1[OH:23])C(=C(C=C4)OC)O.CS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][NH+:21](CC(=O)O)C(CC(C1=CC=CC=C1)C(=O)C2=CC=CO2)(C3=C4C=CC=CC4=CC=C3)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C1=CC=C(C=C1)C(CC(C2=C3C=CC=CC3=CC=C2)([NH:21]CC(=O)O)O)C(=O)C4=CC=CO4 10=20;20,21=21
[H:20][O:21]C1=C(C(=C2C=CC=CC2=N1)O)[N+](=O)[O-].CC[N:10](CC)CC.O=P(Cl)(Cl)Cl>>[H:20][N+:10](CC)(CC)CC.C1=CC2=C(C(=C(N=C2C=C1)[O-:21])[N+](=O)[O-])O.O=P(Cl)(Cl)Cl 10=20;20,21=21
COC1=C(C=C(C=C1)CC[N:10]2CC2)OC.C1C[C:20](=[CH:21][C:22](=[O:23])C1)Br>>COC1=C(C=C(C=C1)CC[N+:10]2(CC2)[C:20]3(CCC[C:22](=[CH:21]3)[O-:23])Br)OC 10=20;22,23=23;20,21=21,22
[CH3:20][O:21]C(=O)C12CC3=C(C1C4=C(C=C(C=C4)O)OC2=O)C=C5C(=C3)OCO5.[Cl-:10].CS(=O)C>>[CH3:20][Cl:10].C1C2=C(C=C3C(=C2)OCO3)C4C1(C(=O)OC5=C4C=CC(=C5)O)C(=O)[O-:21].CS(=O)C 10=20;20,21=21
C[C:11](=[CH:10]C[N+]12CCN(CC1)CC2)[O-:12].COC1=C(C(=CC=C1)[CH:20]=[O:21])O>>C[C:11](=[O:12])[CH:10](C[N+]12CCN(CC1)CC2)[CH:20](C3=CC=CC(=C3O)OC)[O-:21] 10,11=10,20;12=11;20,21=21
[H:20][Cl:21].CN1C2=CC=CC=C2[C:11]3=[C:10]1C(NCC3)CC4=CC=C(C(=C4)O)O>>[H:20][C:10]12C(NCC[C+:11]1C3=CC=CC=C3N2C)CC4=CC=C(C(=C4)O)O.[Cl-:21] 10,11=10,20;20,21=21
C[P:10](C)(C)([Mg]Br)[Cl:11]>>C[P+:10](C)(C)[Mg]Br.[Cl-:11] 10,11=11
C[OH:10].C1CCO[C:20](=[OH+:21])C1.[Cl-]>>C[OH+:10][C:20]1(CCCCO1)[OH:21].[Cl-] 10=20;20,21=21
B([O+:21]([CH3:20])C1=CC=C(C=C1)CCC)(Br)Br.[Br-:10]>>B([O:21]C1=CC=C(C=C1)CCC)(Br)Br.[CH3:20][Br:10] 10=20;20,21=21
[H:20][O:21]C(C)CBr.[NH2-:10]>>[H:20][NH2:10].CC(CBr)[O-:21] 10=20;20,21=21
[CH3:20][I:21].C1=CC=C(C=C1)[NH2:10]>>[CH3:20][NH2+:10]C1=CC=CC=C1.[I-:21] 10=20;20,21=21
[H:20][O:21]CC.CC(C[N+](=O)[O-])[O-:10]>>[H:20][O:10]C(C)C[N+](=O)[O-].CC[O-:21] 10=20;20,21=21
CC[OH:10].CCOC(=O)CC[C:20](=[O+:21]CC)C>>CC[OH+:10][C:20](C)(CCC(=O)OCC)[O:21]CC 10=20;20,21=21
[H:20][N+:21](CCC)(CCC)C1(CCCCC1)O[Ti-](Cl)(Cl)(Cl)Cl.CCC[NH:10]CCC>>[H:20][NH+:10](CCC)CCC.CCC[N:21](CCC)C1(CCCCC1)O[Ti-](Cl)(Cl)(Cl)Cl 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)NC(=O)CC)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(=O)N[C:24]1=[CH:23][CH:22]=[C:21](C=C1)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
COC1=C2C3=C(CC4C5(C3(CCN4CC6CC6)C(O2)[C:20](CC5)([NH:10]N)[OH:21])O)C=C1.C(COCCO)O.O>>COC1=C2C3=C(CC4C5(C3(CCN4CC6CC6)C(O2)[C:20](=[NH+:10]N)CC5)O)C=C1.[OH-:21].C(COCCO)O.O 10=20;20,21=21
[H:10][C:11]1(CCC(CC1CCCCC)CC(C)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CCCCC)CC(C)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
CC(=O)[CH2:20][Br:21].[C-:10]#N>>CC(=O)[CH2:20][C:10]#N.[Br-:21] 10=20;20,21=21
[H:20][CH:21](C=O)[CH+:22]C1=CC=CC=C1.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC=C(C=C1)[CH:22]=[CH:21]C=O 10=20;20,21=21,22
C[C:20](=[OH+:21])C1CCC2C1(CCC3C2CC=C4C3(CCC(C4)O)C)C.C(CO)[OH:10].C1=CC=NC=C1.[Cl-]>>CC12CCC3C(C1CCC2[C:20](C)([OH:21])[OH+:10]CCO)CC=C4C3(CCC(C4)O)C.C1=CC=NC=C1.[Cl-] 10=20;20,21=21
CCCCCC1=C[C:22](=[OH+:23])[C:21](=[CH:20]C=C(C)CCC=C(C)C)C(=C1)O.[OH2:10].[Cl-]>>CCCCCC1=C[C:22](=[C:21](C(=C1)O)[CH:20](C=C(C)CCC=C(C)C)[OH2+:10])[OH:23].[Cl-] 10=20;22,23=23;20,21=21,22
CCN[C:22](=[OH+:23])[CH:21]=[CH2:20].CC[SH:10]>>CCN[C:22](=[CH:21][CH2:20][SH+:10]CC)[OH:23] 10=20;22,23=23;20,21=21,22
[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)C(F)(F)F.O[S+:20](=O)=O>>C1=CC2=CC(=CC=C2[CH:10]([CH+:11]1)[S:20](=O)(=O)O)C(F)(F)F 10,11=10,20
[CH3:10][Mg:11]Cl.C1CCC(C1)OC2=CC(=CC=C2)[CH:20]=[O:21]>>[CH3:10][CH:20](C1=CC=CC(=C1)OC2CCCC2)[O-:21].[Mg+:11]Cl 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.CCC12CCC3=[N:10]C4=C(C35C1N(CC5)CC=C2)C=CC=C4.[BH3-]C#N.[Na+]>>[H:20][N+:10]1=C2CCC3(C=CCN4C3C2(CC4)C5=C1C=CC=C5)CC.CC(=O)[O-:21].[BH3-]C#N.[Na+] 10=20;20,21=21
C1=CC(=CC=C1[CH:10](C(Cl)(Cl)Cl)[OH2+:11])Cl.C1=CC=C(C=C1)Cl.OS(=O)(=O)[O-]>>C1=CC(=CC=C1[CH+:10]C(Cl)(Cl)Cl)Cl.[OH2:11].C1=CC=C(C=C1)Cl.OS(=O)(=O)[O-] 10,11=11
O[P:10](O)(O)(O)[Cl:11]>>O[P+:10](O)(O)O.[Cl-:11] 10,11=11
[C-:10]#N.C(#N)C([C:20]#[N:21])N.C#N.O>>C(#N)C([C:20](=[N-:21])[C:10]#N)N.C#N.O 10=20;20,21=21
CO[CH:20]([OH:10])[SH+:21]C>>CO[CH:20]=[OH+:10].C[SH:21] 10=20;20,21=21
C[C:20](=[O:21])C.[C-:10]#N>>C[C:20](C)([C:10]#N)[O-:21] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:22]1=[C:21](C=CC=C1)[N+](=O)[O-] 10=20;20,21=21,22
C[NH:10]CC1=CC=CC=C1.[CH3:20][I:21]>>C[NH+:10]([CH3:20])CC1=CC=CC=C1.[I-:21] 10=20;20,21=21
[H:20][P+:21](OC)(OC)OC.C[OH:10]>>[H:20][OH+:10]C.CO[P:21](OC)OC 10=20;20,21=21
CC=CC(CC(C)(C)O)[N:10](C)C(C)C1=CC=CC=C1.C1=CC(=CC(=C1)[C:22](=[OH+:23])[O:21][O-:20])Cl>>CC=CC(CC(C)(C)O)[N+:10](C)(C(C)C1=CC=CC=C1)[O-:20].C1=CC(=CC(=C1)[C:22](=[O:21])[OH:23])Cl 10=20;22,23=23;20,21=21,22
